US07745646B2
8-(Cyclopentyloxy)-4-[(3,5-dichloropyridin-4-yl)methyl]-7-methoxy-2H-chromen-2-one
The title compound was prepared from 3,5-dichloro-4-methylpyridine and 8-(cyclopentyloxy)-7-methoxy-2-oxo-2H-chromen-4-yl 4-methylbenzenesulfonate following the procedure outlined in Example 1, Step 4. 1H NMR (400 MHz, DMSO-d6): δ 8.73 (s, 2H), 7.77 (d, 1H), 7.19 (d, 1H), 5.32 (s, 1H), 4.83 (m, 1H), 4.45 (s, 2H), 3.92 (s, 3H), 1.80-1.00 (m, 8H); MS (ESI): 419.9.

reactant | 3,5-dichloro-4-methylpyridine | ClC=1C=NC=C(C1C)Cl | C6H5Cl2N
reactant | 8-(cyclopentyloxy)-7-methoxy-2-oxo-2H-chromen-4-yl 4-methylbenzenesulfonate | CC1=CC=C(C=C1)S(=O)(=O)OC1=CC(OC2=C(C(=CC=C12)OC)OC1CCCC1)=O | C22H22O7S
product | 8-(Cyclopentyloxy)-4-[(3,5-dichloropyridin-4-yl)methyl]-7-methoxy-2H-chromen-2-one | C1(CCCC1)OC=1C(=CC=C2C(=CC(OC12)=O)CC1=C(C=NC=C1Cl)Cl)OC | C21H19Cl2NO4
